US08008298B2
Propyl magnesium chloride lithium chloride (1.3 M solution in THF, 1.7 mL, 2.2 mmol) was added to 3 mL of tetrahydrofuran cooled to −78° C. A solution of 7-iodo-5-triisopropylsilanyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine (0.250 g, 0.440 mmol) in 2 mL of tetrahydrofuran was slowly added, and the mixture was stirred at −78° C. for 2 h. A solution of 3,3-dimethyl-4-oxo-butyronitrile (0.241 g, 2.17 mmol) in 2 mL of tetrahydrofuran was added dropwise, and the mixture was stirred, allowing to slowly warm to RT, for 19 h, then quenched with 100 mL of a sat. aq. NaHCO3 solution. The resulting mixture was extracted with 100 mL of ethyl acetate, and the organic layer was dried over MgSO4, filtered and concentrated to a residue. Column chromatography (0→50% EtOAc/hexanes) afforded 0.152 g (62%) of 4-hydroxy-3,3-dimethyl-4-[5-triisopropylsilanyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-butyronitrile as a yellow oil.

reactant | Propyl magnesium chloride lithium chloride | 2.2 mmol, 1.3 M, 1.7 mL | [Cl-].[Li+].C(CC)[Mg]Cl
reactant | 7-iodo-5-triisopropylsilanyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine | 0.440 mmol, 0.250 g | IC1=CN(C2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)[Si](C(C)C)(C(C)C)C(C)C | C24H34IN3O3Si
reactant | 3,3-dimethyl-4-oxo-butyronitrile | 2.17 mmol, 0.241 g | CC(CC#N)(C=O)C | C6H9NO
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 4-hydroxy-3,3-dimethyl-4-[5-triisopropylsilanyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-butyronitrile | 0.152 g, 62% | OC(C(CC#N)(C)C)C1=CN(C2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)[Si](C(C)C)(C(C)C)C(C)C | C30H44N4O4Si
